US07176242B2
Methyl 3-{[(tert-butoxycarbonyl)(butyl)amino]methyl}-5-methylbenzoate
To a stirred solution of methyl 3-[(butylamino)methyl]-5-methylbenzoate (70 mg, 0.30 mmol) in methylene chloride is added triethylamine (0.046 mL, 0.33 mmol), and 4-dimethylaminopyridine (4.0 mg, 0.03 mmol) followed by di-tert-butyl-dicarbonate (72 mg, 0.30 mmol). The reaction mixture is stirred at room temperature for 24 h, diluted with methylene chloride, washed with 1 N hydrochloric acid, and brine. The organic solution is dried (magnesium sulfate), filtered, and concentrated under reduced pressure to afford the title compound. 1H NMR (300 MHz, CDCl3) δ 7.75 (s, 1H), 7.70 (s, 1H), 7.24 (br s, 1H), 4.42 (d, J=9 Hz, 2H), 3.90 (s, 3H), 3.16 (m, 2H), 2.38 (s, 3H), 1.64 (s, 2H), 1.44 (m, 9H), 1.27 (m, 2H), 0.89 (t, J=7 Hz, 3H).

reactant | methyl 3-[(butylamino)methyl]-5-methylbenzoate | 0.30 mmol, 70 mg | C(CCC)NCC=1C=C(C(=O)OC)C=C(C1)C | C14H21NO2
reactant | triethylamine | 0.33 mmol, 0.046 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 0.30 mmol, 72 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.03 mmol, 4.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 3-{[(tert-butoxycarbonyl)(butyl)amino]methyl}-5-methylbenzoate | C(C)(C)(C)OC(=O)N(CCCC)CC=1C=C(C(=O)OC)C=C(C1)C | C19H29NO4
